US04912115
(a) 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-acetyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hemihydrate
3.2 g (20 mmol) of N,N'-carbonyl-diimidazole are added to a solution of 4.9 g (17 mmol) of 6,7-dimethoxy-isoquinolin-4-yl-acetic acid in 100 ml of dimethylformamide. After about 30 minutes 4.8 g (17 mmol) of 2-(3-methylamino-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline are added and the mixture is stirred for 2 hours at ambient temperature. The solvent is evaporated off in vacuo and the residue remaining is dissolved in a mixture of 2 molar sodium hydroxide solution and methylene chloride. The organic phase is washed with water, dried over magnesium sulphate and evaporated down in vacuo.

reactant | 6,7-dimethoxy-isoquinolin-4-yl-acetic acid | 17 mmol, 4.9 g | COC=1C=C2C(=CN=CC2=CC1OC)CC(=O)O | C13H13NO4
reactant | 2-(3-methylamino-propyl)-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | 17 mmol, 4.8 g | CNCCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C15H22N2O3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-[N-Methyl-N-(2-(6,7-dimethoxy-isoquinolin-4-yl)-acetyl)-3-amino-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hemihydrate | O.CN(CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O)C(CC1=CN=CC2=CC(=C(C=C12)OC)OC)=O.CN(C(CC1=CN=CC2=CC(=C(C=C12)OC)OC)=O)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/2C28H33N3O6.H2O/c2*1-30(27(32)13-20-17-29-16-19-12-24(35-3)25(36-4)14-21(19)20)8-6-9-31-10-7-18-11-23(34-2)26(37-5)15-22(18)28(31)33;/h2*11-12,14-17H,6-10,13H2,1-5H3;1H2
